US07417064B2
Add 1,1′-(azodicarbonyl)dipiperidine (1.6901 g, 6.698 mmol) to a stirred solution of 1-(benzyl-methyl-amino)-5-methyl-hexan-3-ol (1.0463 g, 4.445 mmol), 4-hydroxybenzo-thiophene (1.0027 g, 6.676 mmol), tributylphosphine (1.70 mL, 6.82 mmol), and anhydrous toluene (15 mL). Heat the reaction to 70° C. under nitrogen for 18 hours. Cool the reaction to room temperature and dilute with dichloromethane. Filter off the solid material and concentrate the solvent off on a rotary evaporator to give the crude product. Purify the crude product by flash chromatography on silica gel eluting with 10% ethyl acetate /dichloromethane to yield 0.9674 g (59%) of [3-(benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-benzyl-methyl-amine: mass spectrum (ion spray) m/z=368.3(M+1); 1H NMR (CDCl3) δ 7.46-7.41 (m, 2H), 7.29-7.21 (m, 7H), 6.83 (d, 1H), 4.66-4.60 (m, 1H), 3.47 (s, 2H), 2.54-2.51 (m, 2H), 2.19 (s, 3H), 2.02-1.71 (m, 4H), 1.49-1.42 (m, 1H), 0.95 (d, 3H), 0.89 (d, 3H).

reactant | 1,1′-(azodicarbonyl)dipiperidine | 6.698 mmol, 1.6901 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 1-(benzyl-methyl-amino)-5-methyl-hexan-3-ol | 4.445 mmol, 1.0463 g | C(C1=CC=CC=C1)N(CCC(CC(C)C)O)C | C15H25NO
reactant | 4-hydroxybenzo-thiophene | 6.676 mmol, 1.0027 g | OC1=CC=CC2=C1C=CS2 | C8H6OS
reactant | tributylphosphine | 6.82 mmol, 1.70 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | [3-(benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-benzyl-methyl-amine | 0.9674 g, 59% | S1C2=C(C=C1)C(=CC=C2)OC(CCN(C)CC2=CC=CC=C2)CC(C)C | C23H29NOS
